US09428477B2
Production of 1-((E)-2-Decenoyl)-4-(4-chlorophenyl)piperazine [Compound 41]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and 1-(4-chlorophenyl)piperazine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 1-(4-chlorophenyl)piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 1-((E)-2-Decenoyl)-4-(4-chlorophenyl)piperazine | C(\C=C\CCCCCCC)(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C20H29ClN2O
